Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
Bilateral leg swelling 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with history of OSA presents months of bilateral leg
swelling with pain worse over the past day. The patient reports
that he has had leg swelling he thinks for the past few months.
He also reports leg pain up to a ___ in severity that is worse
with walking. He describes the pain as a cramping type pain. He
has only taken intermittent ibuprofen for his pain which helped 
a
little. He reports some shortness of breath that he associates
with not having CPAP for his OSA. He reports SOB occasionally
with walking but has a difficult time determining how far he can
walk without SOB. He also is not sure how long this has been
going on for. He reports waking at night with shortness of 
breath
that he attributes to OSA. He denies chest pain and is able to
lay flat. He denies weight gain and has actually lost about 
60lbs
over approximately ___ months. He attributes this to a change in
diet and increased physical activity.  He reports frequent
urination but no changes to bowel or bladder habits. Reports he
has been eating and drinking well and drinking plenty of water.
He reports he presented to the ED for his leg pain and swelling. 


In the ED, initial VS were: T 97.7 BP 134/72 HR 77 RR 18 O2 95%
on RA  
Exam notable for:  
"Uncomfortable  
JVP not visible due to body habitus  
 LUngs clear  
 RRR  
 Abd obese, no fluid wave  
 2+ bilateral ___ to knees."  

Labs showed:  
 -Negative troponin  
 -ProBNP 126  
 -Hb 11.2, WBC 7.7  
 -Cr 1.4 (previously 0.9 in ___, K 5 (hemolyzed)  
 -LFT's and extended lytes WNL  

Imaging showed:  
 BILATERAL ___ (___):  
1. The bilateral calf veins are not visualized secondary to
patient's body habitus. Otherwise, no evidence of deep venous
thrombosis in the remaining bilateral lower extremity veins.  
2. 6.6 x 3.2 x 5.1 cm right ___ cyst.  
Consults: None  
Patient received:  
-20mg IV furosemide  
 
Transfer VS were: T 98 BP 137/57 HR 84 RR 28 O2 95% on RA  

On arrival to the floor, patient reports his leg pain has
improved since resting his legs. He denies shortness of breath.
Remainder of history as above. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
Obesity  
Witnessed OSA in the ED
No history of hospitalizations  
 
Social History:
___
Family History:
Mother- ___
Father- unknown illnesses
Daughter- ___- healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.3 BP:121/78 HR:62 R:22 97 RA 
GENERAL: well appearing man in NAD, speaking in full sentences
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds. Abdomen is soft, 
nondistended,
nontender in all quadrants, with no rebound/guarding. Large 
panus
without skin breakdown. No hepatosplenomegaly  
GU: No scrotal edema, no inguinal LAD
EXTREMITIES: Warm and well perfused. No cyanosis, clubbing or
edema.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. Moving all four extremities with
purpose.  
SKIN: No excoriations or lesions, no rashes

DISCHARGE PHYSICAL EXAM
VS:  ___ 0736 Temp: 97.7 PO BP: 138/90 HR: 59 RR: 20 O2 
sat:
100% O2 delivery: RA 
GENERAL: well appearing man in NAD lying in bed, speaking in 
full
sentences
HEART: Regular rate and rhythm with normal S1/S2, no murmurs,
gallops, or rubs  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: Abdomen is soft, nondistended, nontender in all
quadrants, with no rebound/guarding. Large panus without skin
breakdown. No hepatosplenomegaly  
EXTREMITIES: Warm and well perfused. 1+ edema in the lower
extremities to the mid-shins bilaterally 
edema.  
PULSES: 2+ DP pulses bilaterally   
SKIN: No excoriations or lesions, no rashes 

 
Pertinent Results:
Admission Labs:
----------------
___ 02:11AM BLOOD WBC-7.7 RBC-4.24* Hgb-11.2* Hct-35.5* 
MCV-84 MCH-26.4 MCHC-31.5* RDW-14.8 RDWSD-45.0 Plt ___
___ 02:11AM BLOOD Glucose-111* UreaN-18 Creat-1.4* Na-142 
K-5.0 Cl-103 HCO3-26 AnGap-13
___ 02:11AM BLOOD ALT-16 AST-33 AlkPhos-67 TotBili-<0.2
___ 02:11AM BLOOD cTropnT-<0.01 proBNP-126*
___ 02:11AM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.1 Mg-2.0

Imaging:
---------
US Bilat Lower Ext Veins (___)
IMPRESSION: 
1.  The bilateral calf veins are not visualized secondary to 
patient's body
habitus.  Otherwise, no evidence of deep venous thrombosis in 
the remaining
bilaterallower extremity veins.
2.  6.6 x 3.2 x 5.1 cm right ___ cyst.

Chest X-Ray (___)
IMPRESSION: 
Heart size is normal.  Mediastinum is normal.  Lungs are clear.  
There is no
pleural effusion.  There is no pneumothorax.

Discharge Labs:
----------------
___ 05:59AM BLOOD WBC-7.0 RBC-4.28* Hgb-11.4* Hct-35.6* 
MCV-83 MCH-26.6 MCHC-32.0 RDW-14.9 RDWSD-44.8 Plt ___
___ 05:59AM BLOOD Glucose-103* UreaN-18 Creat-1.0 Na-140 
K-4.6 Cl-104 HCO3-26 AnGap-___ with no known PMHx who presents with a chief complaint of 
bilateral lower extremity edema and inability to ambulate. 

# BILATERAL LOWER EXTREMITY SWELLING: 
Patient with lower extremity edema of unclear etiology that 
improved with IV furosemide. Differential includes new heart 
failure in patient with untreated sleep apnea although BNP is 
low, it is not always accurate in patients with obesity. An 
echocardiogram showed an left ventricular ejection fraction of 
57% with mild symmetric left ventricular hypertrophy and mild 
aortic regurgitation. Nephrotic syndrome was also on the 
differential, but was considered less likely given lack of 
additional findings, only trace protein in the urine analysis, 
and improvement of creatinine with lasix. Could also consider 
obstruction to venous/lymphatic flow given morbid obesity. The 
patient's symptoms resolved with elevation and Lasix as above. 
He was ambulating independently on discharge.

# ACUTE KIDNEY INJURY: 
Patient presented with creatinine of 1.4 which returned to his 
baseline of approximately 1.0 following the administration of 
lasix. 

# OBSTRUCTIVE SLEEP APNEA: 
Patient previously diagnosed with sleep apnea and used to use a 
CPAP machine every night, but he lost the machine in a recent 
move. Used CPAP while sleeping during course of admission. 

# ANEMIA:
Patient has found to have a hemoglobin at 11. Per patient, he 
was previously told that he was anemia. He also states he has a 
family history of anemia with his ___ old daughter and sister 
having the same issue. 

Transitional Issues
-------------------
- Discussed with patient importance of establishing care with a 
primary care doctor
- Consider evaluation of anemia as outpatient
- Sleep Study to follow up on obstructive sleep apnea and 
determine need for home CPAP machine
- Per ___ ACC/AHA Valvular Heart Disease Guidelines, mild 
aortic regurg should be followed with an echocardiogram every 
___ years
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Bilateral Lower Extremity Swelling
#Mild Aortic Regurgitation
#Acute Kidney Injury
#Obstructive Sleep Apnea 
#Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital because you were experiencing 
painful swelling in both of your legs. The swelling improved 
with some medication that helped to remove extra fluid from your 
body. You had an ultrasound of your heart which showed mild 
aortic regurgitation which should be monitored with an echo 
every ___ years. 

It is important to follow-up with your primary care doctor about 
several issues that arose during the course of your 
hospitalization. While you were in the hospital, you were found 
to be anemic (low blood levels). Your primary care doctor should 
evaluate further to determine the cause. Also, while in the 
hospital, you required a CPAP machine while sleeping due to 
obstructive sleep apnea (OSA). Your primary care doctor should 
consider having you undergo a sleep study and may be able to 
help you arrange having a CPAP machine at home. 

It was a pleasure taking care of you,
Your Medical Team 
 
Followup Instructions:
___